* subcircuit for AND_gate XOR_gate OR_gate NOT_gate Nand_gate flipFlopD cmos_nand3

.subckt AND_gate 1 3 5
V1 6 0 dc 5
mQ1 4 1 2 0 NMOS_Q
mQ2 2 3 0 0 NMOS_Q
mQ3 5 4 0 0 NMOS_Q
mQ4 4 1 6 6 PMOS_Q
mQ5 4 3 6 6 PMOS_Q
mQ6 5 4 6 6 PMOS_Q

.model NMOS_Q NMOS( Level=1 LAMBDA=0 RD=0 RS=0 IS=1e-14 PB=0.8 CGDO=0 CGBO=0 MJ=0.5 MJSW=0.33
+ JS=0 NSS=0 TPG=1 LD=0 U0=600 KF=0 AF=1FC=0.5 RG=0 RB=0WD=0 N=1 JSS=0 TT=0 NLEV=2 GDNOI=1)
.model PMOS_Q PMOS( Level=1 LAMBDA=0 RD=0 RS=0 IS=1e-14 PB=0.8 CGDO=0 CGBO=0 MJ=0.5 MJSW=0.33
+ JS=0 NSS=0 TPG=1 LD=0 U0=600 KF=0 AF=1FC=0.5 RG=0 RB=0WD=0 N=1 JSS=0 TT=0 NLEV=2 GDNOI=1)
.ends

*-------------------------------------------------------------------*

* subcircuit for OR-gate using cmos transistors

.subckt OR_gate 4 5 6

mQ1 1 4 2 2 PMOS_Q1 
mQ2 3 5 1 1 PMOS_Q1 
mQ3 3 4 0 0 NMOS_Q1 
mQ4 3 5 0 0 NMOS_Q1 
mQ5 6 3 2 2 PMOS_Q1 
mQ6 6 3 0 0 NMOS_Q1 

R1 3 0 100000
Vcc 2 0 dc 5 ac 0 0 

.model PMOS_Q1 PMOS( Level=1
+VTO=0 KP=0.00002 GAMMA=0 PHI=0.6 LAMBDA=0 RD=0 RS=0
+CBD=0 CBS=0 IS=1e-14 PB=0.8 CGSO=0 CGDO=0 CGBO=0   MJ=0.5
+ MJSW=0.33 JS=0   NSS=0 TPG=1 LD=0 U0=600 KF=0
+AF=1 FC=0.5  RG=0 RB=0 RDS=0 WD=0 N=1 JSSW=0 
+TT=0 NLEV=2 GDSNOI=1    
+ )
.model NMOS_Q1 NMOS( Level=1
+VTO=0 KP=0.00002 GAMMA=0 PHI=0.6 LAMBDA=0 RD=0 RS=0
+CBD=0 CBS=0 IS=1e-14 PB=0.8 CGSO=0 CGDO=0 CGBO=0   MJ=0.5
+ MJSW=0.33 JS=0   NSS=0 TPG=1 LD=0 U0=600 KF=0
+AF=1 FC=0.5  RG=0 RB=0 RDS=0 WD=0 N=1 JSSW=0 
+TT=0 NLEV=2 GDSNOI=1    
+ )
.ends 

*-------------------------------------------------------------------*
* subcircuit for XOR-gate using cmos transistors

.subckt XOR_gate 8 10 6

mQ1 1 7 3 3 PMOS_Q1 L=0.0001 W=0.0001 M=1 AD=0 AS=0 PD=0 PS=0 NRD=1 NRS=1  
mQ11 7 8 3 3 PMOS_Q1 L=0.0001 W=0.0001 M=1 AD=0 AS=0 PD=0 PS=0 NRD=1 NRS=1  
mQ12 7 8 0 0 NMOS_Q1 L=0.0001 W=0.0001 M=1 AD=0 AS=0 PD=0 PS=0 NRD=1 NRS=1  
mQ13 9 10 3 3 PMOS_Q1 L=0.0001 W=0.0001 M=1 AD=0 AS=0 PD=0 PS=0 NRD=1 NRS=1  
mQ14 9 10 0 0 NMOS_Q1 L=0.0001 W=0.0001 M=1 AD=0 AS=0 PD=0 PS=0 NRD=1 NRS=1  
mQ2 6 8 1 1 PMOS_Q1 L=0.0001 W=0.0001 M=1 AD=0 AS=0 PD=0 PS=0 NRD=1 NRS=1  
mQ3 1 9 3 3 PMOS_Q1 L=0.0001 W=0.0001 M=1 AD=0 AS=0 PD=0 PS=0 NRD=1 NRS=1  
mQ4 6 10 1 1 PMOS_Q1 L=0.0001 W=0.0001 M=1 AD=0 AS=0 PD=0 PS=0 NRD=1 NRS=1  
mQ5 6 7 5 5 NMOS_Q1 L=0.0001 W=0.0001 M=1 AD=0 AS=0 PD=0 PS=0 NRD=1 NRS=1  
mQ6 5 9 0 0 NMOS_Q1 L=0.0001 W=0.0001 M=1 AD=0 AS=0 PD=0 PS=0 NRD=1 NRS=1  
mQ7 6 8 4 4 NMOS_Q1 L=0.0001 W=0.0001 M=1 AD=0 AS=0 PD=0 PS=0 NRD=1 NRS=1  
mQ8 4 10 0 0 NMOS_Q1 L=0.0001 W=0.0001 M=1 AD=0 AS=0 PD=0 PS=0 NRD=1 NRS=1  
vV1 3 0 dc 5 ac 0 0 

.model PMOS_Q1 PMOS( Level=1
+    LAMBDA=0 RD=0 RS=0
+  IS=1e-14 PB=0.8 CGSO=0 CGDO=0 CGBO=0   MJ=0.5
+ MJSW=0.33 JS=0   NSS=0 TPG=1 LD=0 U0=600 KF=0
+AF=1 FC=0.5  RG=0 RB=0 RDS=0 WD=0 N=1 JSSW=0 
+TT=0 NLEV=2 GDSNOI=1    
+ )
.model NMOS_Q1 NMOS( Level=1
+    LAMBDA=0 RD=0 RS=0
+  IS=1e-14 PB=0.8 CGSO=0 CGDO=0 CGBO=0   MJ=0.5
+ MJSW=0.33 JS=0   NSS=0 TPG=1 LD=0 U0=600 KF=0
+AF=1 FC=0.5  RG=0 RB=0 RDS=0 WD=0 N=1 JSSW=0 
+TT=0 NLEV=2 GDSNOI=1    
+ )
.ends

*-------------------------------------------------------------------*
* subcircuit for NOT-gate using cmos transistors

.subckt NOT_gate 1 2
vdd 3 0 dc 5v
m1 3 1 2 3 mos1 l=10u w=100u
.model mos1 pmos vto=1.5v kp=200u
m2 2 1 0 0 mos2 l=10u w=200u
.model mos2 nmos vto=1.5v kp=200u
.ends

*-------------------------------------------------------------------*


.subckt Nand_gate in1 in2 res
* name port1 port2  ...
	.model MOSN NMOS level=8 version=3.3.0
	.model MOSP PMOS level=8 version=3.3.0
	* transistor models

	vdd d 0 dc 10
	*biasing voltage


	r1 in1 1 1k
	r2 in2 2 1k
	r4 10 res 1k
	* resistors


	m1 10 1 d d MOSP
	m2 10 2 d d MOSP
	

	m4 10 2 11 0 MOSN
	m5 11 1 0 0 MOSN
	
	* mn drain gate source bulk model
	* nmos bulk to ground, pmos bulk to vdd
.ends Nand_gate

*--------------------------------------------------------------------------------*

.subckt cmos_nand3 in1 in2 in3 res
 x1 in1 in2 a NAND_gate
 x2 a a in1in2 NAND_gate
 x3 in1in2 in3 res NAND_gate
.ends cmos_nand3 






